US20010027196A1
To a stirred solution of 150 mg (0.69 mmol) 6-amino-4-furan-2-yl-2-thioxo-1,2-dihydro-pyridine-3-carbonitrile in 3 ml methanol were added 0.13 ml (0.69 mmol) sodium methylate solution (5.4M in ethanol) and 0.04 ml (0.69 mmol) methyl iodide and the reaction mixture stirred at room temperature for 30 minutes. The reaction mixture was then concentrated in vacuo and the residue partitioned between dichloromethane and water. The organic phase was dried over sodium sulfate and concentrated in vacuo. The residue was triturated in ether to afford 113 mg (71%) 6-amino-4-furan-2-yl-2-methylsulfanyl-nicotinonitrile as a brown crystalline solid. ES-MS m/e (%): 232 (M+H+, 100).

reactant | 6-amino-4-furan-2-yl-2-thioxo-1,2-dihydro-pyridine-3-carbonitrile | 0.69 mmol, 150 mg | NC1=CC(=C(C(N1)=S)C#N)C=1OC=CC1 | C10H7N3OS
reactant | sodium methylate | 0.69 mmol, 5.4M, 0.13 ml | C[O-].[Na+]
reactant | methyl iodide | 0.69 mmol, 0.04 ml | CI | CH3I
solvent | methanol | 3 ml | CO | CH4O
product | 6-amino-4-furan-2-yl-2-methylsulfanyl-nicotinonitrile | 113 mg, 71% | NC1=NC(=C(C#N)C(=C1)C=1OC=CC1)SC | C11H9N3OS
